US07842685B2
To a slurry of (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridine-5-yl)(tetrahydro-2H-pyran-4-yl)methanone (0.408 g, 0.952 mmol) in 20 mL THF at ambient temp was added trimethylsilylmethylmagnesium chloride, 1.1 M solution in THF (1.472 mL, 1.619 mmol) dropwise via syringe. The reaction mixture became clear and dark brown. After 10 min, the reaction mixture became light orange and was cooled to 0° C. and was quenched by careful dropwise addition of sat'd aq NH4Cl. The reaction mixture was partitioned between satd NH4Cl and DCM. The aqueous layer was extracted with DCM 3 times, and the combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give an orange solid. The crude was taken up in 10 mL THF and potassium tert-butoxide (0.128 g, 1.143 mmol) was added. The reaction mixture became dark brown. After 2 h, additional potassium tert-butoxide (0.128 g, 1.143 mmol) was added. After 2 h, the reaction mixture was partitioned between sat'd aq. NH4Cl and DCM. The aqueous layer was extracted with DCM, and the combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The solid was suspended in a minimum amount of MeOH and filtered, rinsing with MeOH to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)vinyl)thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 426.1; Observed: 427.1 (M++1).

reactant | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridine-5-yl)(tetrahydro-2H-pyran-4-yl)methanone | 0.952 mmol, 0.408 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=O)C1CCOCC1)F | C22H21FN2O4S
reactant | trimethylsilylmethylmagnesium chloride | C[Si](C)(C)C[Mg]Cl
reactant | potassium tert-butoxide | 1.143 mmol, 0.128 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 1.143 mmol, 0.128 g | CC(C)([O-])C.[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.619 mmol, 1.472 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(tetrahydro-2H-pyran-4-yl)vinyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CCOCC1)F | C23H23FN2O3S
